US07186729B2
Step 4: 3-(4-Chloro-phenyl)-1-ethyl-1-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-urea
To a solution of 3-(4-chloro-phenyl)-1-ethyl-1-pyrrolidin-3-yl-urea (0.21 g, 0.8 mmol) in acetonitrile:water (4:1) was added potassium carbonate (0.16 g, 0.8 mmol) and (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.15 g, 0.4 mmol) and the resulting mixture was stirred at 50° C. for 24 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate, and dried over sodium sulfate. The crude product was purified by flash chromatography on silica using gradient elution from ethyl acetate/methanol (5%) to ethyl acetate/methanol (10%) to give the desired product as yellow solid. 1H-NMR (CDCl3) δ: 1.05 (3H, t), 1.40 (6H, s), 1.80 (1H, m), 2.20–2.40 (3H, m), 2.50–3.00 (8H, m), 3.40 (4H, q and m), 4.20 (1H, m), 5.20 (2H, br, s), 6.20 (1H, t), 6.65(1H, d), 7.00 (2H, dd), 7.20–7.40 (5H, m), 7.70 (1H, dd), 8.50 (1H, dd) 9.80 (1H, br s). ESI-MS m/z: 561 (M+1), UV retention time: 1.45 min.

reactant | 3-(4-chloro-phenyl)-1-ethyl-1-pyrrolidin-3-yl-urea | 0.8 mmol, 0.21 g | ClC1=CC=C(C=C1)NC(N(C1CNCC1)CC)=O | C13H18ClN3O
reactant | potassium carbonate | 0.8 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.4 mmol, 0.15 g | BrCC\C=C/1\C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 3-(4-Chloro-phenyl)-1-ethyl-1-(1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-pyrrolidin-3-yl)-urea | ClC1=CC=C(C=C1)NC(N(C1CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)CC)=O | C32H37ClN4O3
